US05278326
Preparation of β-amino-N-[2,6-bis(1-methylethyl)phenyl]-δ-phenylbenzenepentanamide
The title compound was prepared by treating N-[2,6-bis(1-methylethyl)phenyl]-β-(hydroxyimino)-δ-phenylbenzenepentanamide (0.23 g, 0.53 mmol) with Raney nickel (0.2 g) in 50 mL methanol/ammonia at 25° C. for 18 hours (ΔP=13.7 psi). The reaction mixture was concentrated in vacuo to give a white solid, the title compound.

reactant | N-[2,6-bis(1-methylethyl)phenyl]-β-(hydroxyimino)-δ-phenylbenzenepentanamide | 0.53 mmol, 0.23 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=NO)=O | C29H34N2O2
catalyst | Raney nickel | 0.2 g | [Ni] | Ni
solvent | methanol ammonia | 50 mL | CO.N
product | β-amino-N-[2,6-bis(1-methylethyl)phenyl]-δ-phenylbenzenepentanamide | NC(CC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H36N2O
